US07253286B2
N-(4-(6-(3,5-Difluorophenylamino)pyrimidin-4-yloxy)phenyl-N′-phenylurea
N-(4-(6-Chloropyrimidin-4-yloxy)phenyl)-N′-phenylurea (68.0 mg, 0.200 mmol) and 3,5-difluoroaniline (129 mg, 1.00 mmol) were heated and stirred in 1-methylpyrrolidone (1 ml) at 170° C. for 3 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with saturated aqueous sodium bicarbonate, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=1:1), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (17.5 mg, 0.040 mmol, 20%) as colorless crystals.

reactant | N-(4-(6-Chloropyrimidin-4-yloxy)phenyl)-N′-phenylurea | 0.200 mmol, 68.0 mg | ClC1=CC(=NC=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C17H13ClN4O2
reactant | 3,5-difluoroaniline | 1.00 mmol, 129 mg | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | 1-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | hexane | CCCCCC | C6H14
product | 4-(6-(3,5-Difluorophenylamino)pyrimidin-4-yloxy)phenyl-N′-phenylurea | 0.040 mmol, 17.5 mg, 20% | FC=1C=C(C=C(C1)F)NC1=CC(=NC=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C23H17F2N5O2
